US04357342
To a stirring suspension of sodium 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (20 mg) in anhydrous hexamethylphosphoramide (0.5 ml) is added bromomethyl pivalate (35 mg). The resulting mixture is stirred at room temperature for 2 hrs, then diluted with benzene (5 ml) and washed thoroughly with H2O (5×2 ml) and brine. The benzene solution is dried with MgSO4, filtered, and concentrated under reduced pressure. Preparative tlc of the residue on a silica gel GF plate provides pivaloyloxymethyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate.

reactant | sodium 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 20 mg | N12C(C(CC2CC1=O)=O)C(=O)[O-].[Na+]
reactant | bromomethyl pivalate | 35 mg | C(C(C)(C)C)(=O)OCBr | C6H11BrO2
solvent | hexamethylphosphoramide | 0.5 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | pivaloyloxymethyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | N12C(C(CC2CC1=O)=O)C(=O)OCOC(C(C)(C)C)=O | C13H17NO6
